* C:\Documents and Settings\Michael Walsh\My Documents\GitHub\EMF_Sensor\sim_oscillators\WeinBridgeSineWaveOscillator_v5.sxsch
*#SIMETRIX
V1 OP_PWR_POS 0 9
X2 R3_P X2_inn OP_PWR_POS 0 OutputConnector TL072 pinnames: inp inn vsp vsn out
R1 X2_inn R3_N 10k
R2 OP_PWR_POS R3_N 1k
R3 R3_P R3_N 6.8k
R4 OutputConnector X2_inn 21k
R5 C1_N R3_P 6.8k
R6 R3_N 0 1k
R7 OutputConnector 0 2k
C1 OutputConnector C1_N 10n IC=0  BRANCH={IF(ANALYSIS=2,1,0)}
C2 R3_P R3_N 10n IC=0  BRANCH={IF(ANALYSIS=2,1,0)}
C3 R3_N 0 100u  
.GRAPH OutputConnector axisType="auto" persistence=-1 curveLabel="Output" xLog="auto" yLog="auto"  nowarn=true 
.TRAN 0 100m 0 2m

